US04007190
3,6 Bis-(5-hydroxy-2piperidinyl)-2,5-Piperazinedione
1.0 G. of 3,6-bis(5-chloro-2-piperidinyl)-2,5-piperazinedione is heated in 50 ml. of water for 1/2 hour on a steam bath. The solution is filtered, neutralized with dilute sodium hydroxide and freeze-dried to a white solid weighing 1.16 g. Purification of 300 mg. is accomplished by chromatography on 6 × 1000 μ on silica gel plate using 5:1:2 n-butanol:acetic acid:water as an eluant to give 165 mg. which is dissolved in 15 ml. of hot methanol. Filter solution and bubble in hydrogen chloride gas. Collect precipitate and wash 2 × 5 ml. with methanol and 20 ml. of ether to give 80 mg. of 3,6-bis-(5-hydroxy-2-piperidinyl)-2,5-piperazinedione dihydrochloride.

reactant | 3,6-bis(5-chloro-2-piperidinyl)-2,5-piperazinedione | ClC1CCC(NC1)C1C(NC(C(N1)=O)C1NCC(CC1)Cl)=O | C14H22Cl2N4O2
reactant | water | O | H2O
reactant | 3,6-bis-(5-hydroxy-2-piperidinyl)-2,5-piperazinedione dihydrochloride | Cl.Cl.OC1CCC(NC1)C1C(NC(C(N1)=O)C1NCC(CC1)O)=O
solvent | methanol | CO | CH4O
product | 3,6 Bis-(5-hydroxy-2piperidinyl)-2,5-Piperazinedione | OC1CCC(NC1)C1C(NC(C(N1)=O)C1NCC(CC1)O)=O | C14H24N4O4
